US07385066B2
3-Chlorosulfonyl-benzoyl chloride (1 g, 4.2 mmol) was dissolved in DCM (10 mL) and cooled in an ice bath. To the solution was added 1-methyl-1-phenyl-ethylamine (0.9 g, 3.8 mmol) and 2,6-lutidine (1 mL, 8.4 mmol). The mixture was allowed to warm up to RT and stirred for 4 h. The reaction mixture was diluted with EtOAc (100 mL) and washed with 1 N HCl (2×75 mL) and brine. The organic layer was dried (MgSO4) and evaporated in vacuo to provide 1.37 g (98%) of 3-(1-methyl-1-phenyl-ethylcarbamoyl)-benzenesulfonyl chloride as a tan solid. 1H-NMR (CDCl3): δ 8.40 (t, 1H, J=1.7 Hz), 8.15-8.18 (m, 2H), 7.72 (t, 1H, J=7.8 Hz), 7.46-7.50 (m, 2H), 7.36-7.41 (m, 2H), 7.27-7.32 (m, 1H), 6.56 (br s, 1H), and 1.87 (s, 6H).

reactant | 3-Chlorosulfonyl-benzoyl chloride | 4.2 mmol, 1 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | 1-methyl-1-phenyl-ethylamine | 3.8 mmol, 0.9 g | CC(C)(C1=CC=CC=C1)N | C9H13N
reactant | 2,6-lutidine | 8.4 mmol, 1 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-(1-methyl-1-phenyl-ethylcarbamoyl)-benzenesulfonyl chloride | 1.37 g, 98% | CC(C)(C1=CC=CC=C1)NC(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H16ClNO3S
